US06388134B1
To a solution of 4.15 g (9.93 mmol) N-dimethoxyethyl-6-(4-phenylbutoxy)hexylamine hydrobromide in 40 ml acetone is added 1.4 ml triethylamine and 2.41 g (10.71 mmol) N-(benzyloxycarbonyloxy)succinimide. After allowing the mixture to stir for 2 hr at room temperature, acetone is evaporated of f and 40 ml Et2O is added thereto. The resulting mixture is washed three times with 40 ml H2O. Once separated, the ether phase is dried on anhydrous Na2SO4 and evaporated to dryness, to yield 4.46 g (95.3%) N-benzyloxycarbonyl-N-dimethoxyethyl-6-(4-phenylbutoxy)hexylamine as an oil.

reactant | N-dimethoxyethyl-6-(4-phenylbutoxy)hexylamine hydrobromide | 9.93 mmol, 4.15 g | Br.COC(CNCCCCCCOCCCCC1=CC=CC=C1)OC
reactant | triethylamine | 1.4 ml | C(C)N(CC)CC | C6H15N
reactant | N-(benzyloxycarbonyloxy)succinimide | 10.71 mmol, 2.41 g | C(C1=CC=CC=C1)OC(=O)ON1C(CCC1=O)=O | C12H11NO5
solvent | acetone | 40 ml | CC(=O)C | C3H6O
product | N-benzyloxycarbonyl-N-dimethoxyethyl-6-(4-phenylbutoxy)hexylamine | 4.46 g, 95.3% | C(C1=CC=CC=C1)OC(=O)N(CC(OC)OC)CCCCCCOCCCCC1=CC=CC=C1 | C28H41NO5
